US07994196B2
Ethyl 1H-indazol-3-ylcarbamate (synthesized according to the method described in Tetrahedron, 1976, 32(4), 493)(200 mg) and 4-[4-chloro-3-(trifluoromethyl)phenyl]-4-hydroxypiperidine (ACROS CO., 272 mg) were dissolved in dimethyl sulfoxide (2 ml). Potassium fluoride-alumina (Aldrich Co., 40 wt %, 200 mg) was added to the solution, and the mixture was stirred with heating at 100° C. for 2 hr. After completion of the reaction, the solid was collected by filtration and washed with methanol. The filtrate was concentrated, and 1N aqueous hydrochloric acid was added. The precipitated solid was collected by filtration and vacuum dried. The obtained solid was washed with diethyl ether and dried to give 4-[4-chloro-3-(trifluoromethyl)phenyl]-4-hydroxy-1-piperidinecarboxylic acid (1H-indazol-3-yl)amide (280 mg, yield 66%).

reactant | Ethyl 1H-indazol-3-ylcarbamate | N1N=C(C2=CC=CC=C12)NC(OCC)=O | C10H11N3O2
reactant | 4-[4-chloro-3-(trifluoromethyl)phenyl]-4-hydroxypiperidine | 272 mg | ClC1=C(C=C(C=C1)C1(CCNCC1)O)C(F)(F)F | C12H13ClF3NO
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 4-[4-chloro-3-(trifluoromethyl)phenyl]-4-hydroxy-1-piperidinecarboxylic acid (1H-indazol-3-yl)amide | 280 mg, yield 66% | N1N=C(C2=CC=CC=C12)NC(=O)N1CCC(CC1)(O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C20H18ClF3N4O2
